* File: G4_XOR2_N1.pex.netlist.pex
* Created: Fri Mar 18 15:34:38 2022
* Program "Calibre xRC"
* Version "v2021.2_37.20"
* Nominal Temperature: 25C
* Circuit Temperature: 25C
* 
.subckt PM_G4_XOR2_N1_VSS 2 5 9 12 16 32 33 35 42 43 66 71 76 81 86 95 100 113
+ 115 116 117 122 123 128 138 140 145 146 147 150 Vss
c105 148 Vss 6.13404e-19
c106 147 Vss 3.75522e-19
c107 146 Vss 4.28045e-19
c108 145 Vss 0.0035844f
c109 140 Vss 0.00192576f
c110 138 Vss 0.00847727f
c111 128 Vss 0.00326939f
c112 123 Vss 8.39752e-19
c113 122 Vss 0.00163882f
c114 117 Vss 8.17785e-19
c115 116 Vss 0.00399757f
c116 115 Vss 0.00448448f
c117 113 Vss 0.00145652f
c118 100 Vss 0.00421853f
c119 95 Vss 0.00425358f
c120 86 Vss 1.76201e-20
c121 81 Vss 0.00164759f
c122 76 Vss 7.42069e-19
c123 71 Vss 9.70701e-19
c124 66 Vss 0.0014444f
c125 43 Vss 0.033325f
c126 42 Vss 0.0990681f
c127 35 Vss 7.82991e-20
c128 33 Vss 0.0341879f
c129 32 Vss 0.0981149f
c130 16 Vss 0.00276316f
c131 12 Vss 0.00263275f
c132 9 Vss 0.165244f
c133 5 Vss 0.166856f
c134 2 Vss 0.00267051f
r135 145 150 0.326018
r136 144 145 4.16786
r137 140 144 0.655813
r138 139 148 0.494161
r139 138 150 0.326018
r140 138 139 13.0037
r141 134 148 0.128424
r142 129 147 0.494161
r143 128 148 0.494161
r144 128 129 7.46046
r145 124 147 0.128424
r146 122 147 0.494161
r147 122 123 4.37625
r148 118 146 0.0828784
r149 116 130 0.652036
r150 116 117 10.1279
r151 115 123 0.652036
r152 114 146 0.551426
r153 114 115 12.4619
r154 113 146 0.551426
r155 112 117 0.652036
r156 112 113 4.16786
r157 86 140 1.82344
r158 81 134 4.83471
r159 76 100 1.16709
r160 76 130 2.16729
r161 71 95 1.16709
r162 71 124 2.16729
r163 66 118 1.82344
r164 45 100 0.238214
r165 43 45 1.45875
r166 42 46 0.652036
r167 42 45 1.45875
r168 39 43 0.652036
r169 35 95 0.238214
r170 33 35 1.45875
r171 32 36 0.652036
r172 32 35 1.45875
r173 29 33 0.652036
r174 16 86 1.16709
r175 12 81 1.16709
r176 9 46 2.5674
r177 9 39 2.5674
r178 5 36 2.5674
r179 5 29 2.5674
r180 2 66 1.16709
.ends

.subckt PM_G4_XOR2_N1_VDD 3 6 8 11 16 32 42 43 66 68 69 70 73 75 76 79 81 85 89
+ 91 93 98 99 100 103 109 114 Vss
c106 114 Vss 0.00542312f
c107 109 Vss 0.00583104f
c108 101 Vss 8.76285e-19
c109 100 Vss 2.39889e-19
c110 99 Vss 3.56526e-19
c111 98 Vss 0.00433275f
c112 93 Vss 0.00130328f
c113 91 Vss 0.0132502f
c114 89 Vss 0.0018632f
c115 85 Vss 7.3942e-19
c116 81 Vss 0.00447795f
c117 79 Vss 0.00129126f
c118 76 Vss 8.63329e-19
c119 75 Vss 0.00575889f
c120 73 Vss 0.00159649f
c121 70 Vss 8.67402e-19
c122 69 Vss 0.00219856f
c123 68 Vss 0.00201914f
c124 66 Vss 0.0065263f
c125 43 Vss 0.0341287f
c126 42 Vss 0.099962f
c127 33 Vss 0.0348624f
c128 32 Vss 0.0999592f
c129 16 Vss 0.00189547f
c130 11 Vss 0.165401f
c131 8 Vss 0.00162509f
c132 6 Vss 0.00218552f
c133 3 Vss 0.165774f
r134 98 103 0.349767
r135 97 98 4.16786
r136 93 103 0.306046
r137 93 95 1.82344
r138 92 101 0.494161
r139 91 97 0.652036
r140 91 92 13.0037
r141 87 101 0.128424
r142 87 89 4.83471
r143 85 114 1.16709
r144 83 85 2.16729
r145 82 100 0.494161
r146 81 101 0.494161
r147 81 82 7.46046
r148 79 109 1.16709
r149 77 100 0.128424
r150 77 79 2.16729
r151 75 83 0.652036
r152 75 76 10.1279
r153 71 99 0.0828784
r154 71 73 1.82344
r155 69 100 0.494161
r156 69 70 4.37625
r157 68 76 0.652036
r158 67 99 0.551426
r159 67 68 4.16786
r160 66 99 0.551426
r161 65 70 0.652036
r162 65 66 12.4619
r163 45 114 0.238214
r164 43 45 1.45875
r165 42 46 0.652036
r166 42 45 1.45875
r167 39 43 0.652036
r168 35 109 0.238214
r169 33 35 1.45875
r170 32 36 0.652036
r171 32 35 1.45875
r172 29 33 0.652036
r173 16 95 1.16709
r174 11 46 2.5674
r175 11 39 2.5674
r176 8 89 1.16709
r177 6 73 1.02121
r178 3 36 2.5674
r179 3 29 2.5674
.ends

.subckt PM_G4_XOR2_N1_A 2 4 7 10 18 21 24 28 39 48 54 57 62 67 72 77 85 Vss
c59 85 Vss 4.11933e-19
c60 77 Vss 9.32916e-19
c61 72 Vss 0.00720976f
c62 67 Vss 0.00368523f
c63 62 Vss 0.0024107f
c64 57 Vss 0.00389164f
c65 54 Vss 7.92361e-19
c66 48 Vss 0.126059f
c67 43 Vss 0.0296049f
c68 39 Vss 2.69463e-19
c69 28 Vss 0.152395f
c70 24 Vss 2.35358e-19
c71 21 Vss 0.169387f
c72 18 Vss 0.0715834f
c73 16 Vss 0.0247918f
c74 10 Vss 0.0674191f
c75 7 Vss 0.219218f
c76 4 Vss 0.08397f
r77 81 85 0.653045
r78 62 77 1.16709
r79 62 85 4.9014
r80 57 72 1.16709
r81 57 81 8.169
r82 51 67 1.16709
r83 51 54 0.0364688
r84 47 72 0.262036
r85 47 48 2.334
r86 44 47 2.20433
r87 39 77 0.404964
r88 33 48 0.00605528
r89 31 44 0.00605528
r90 29 43 0.494161
r91 28 30 0.652036
r92 28 29 4.84305
r93 25 43 0.128424
r94 24 67 0.0476429
r95 22 24 0.326018
r96 22 24 0.1167
r97 21 43 0.494161
r98 21 24 6.7686
r99 18 67 0.357321
r100 16 24 0.326018
r101 16 18 0.40845
r102 10 39 2.04225
r103 7 33 2.5674
r104 7 31 2.5674
r105 7 30 2.5674
r106 4 25 2.5674
r107 2 18 2.15895
.ends

.subckt PM_G4_XOR2_N1_NET1 2 7 10 31 35 44 49 58 76 Vss
c41 76 Vss 3.74063e-19
c42 58 Vss 0.00478125f
c43 49 Vss 0.00566108f
c44 44 Vss 0.0016591f
c45 35 Vss 0.102425f
c46 31 Vss 0.123619f
c47 10 Vss 0.181762f
c48 7 Vss 0.270505f
c49 2 Vss 0.00157712f
r50 72 76 0.653045
r51 49 58 1.16709
r52 49 76 12.9148
r53 44 72 2.08393
r54 33 35 1.70187
r55 30 58 0.262036
r56 30 31 2.20433
r57 27 30 2.334
r58 25 35 0.17282
r59 24 31 0.00605528
r60 21 33 0.17282
r61 18 27 0.00605528
r62 10 21 5.77665
r63 7 25 4.4346
r64 7 24 2.5674
r65 7 18 2.5674
r66 2 44 1.16709
.ends

.subckt PM_G4_XOR2_N1_NET2 2 6 9 21 22 32 33 42 47 56 74 Vss
c46 74 Vss 3.38305e-19
c47 56 Vss 0.00607606f
c48 47 Vss 0.00639628f
c49 42 Vss 0.00204719f
c50 33 Vss 0.126868f
c51 22 Vss 0.0327936f
c52 21 Vss 0.172441f
c53 9 Vss 0.361367f
c54 6 Vss 0.09048f
c55 2 Vss 0.00157712f
r56 70 74 0.660011
r57 47 56 1.16709
r58 47 74 11.3611
r59 42 70 1.95889
r60 32 56 0.262036
r61 32 33 2.26917
r62 29 32 2.26917
r63 26 33 0.00605528
r64 24 29 0.00605528
r65 21 23 0.652036
r66 21 22 4.84305
r67 18 22 0.652036
r68 9 26 2.5674
r69 9 24 2.5674
r70 9 23 7.4688
r71 6 18 2.97585
r72 2 42 1.16709
.ends

.subckt PM_G4_XOR2_N1_B 2 4 7 10 19 20 28 31 36 47 49 52 55 58 61 Vss
c39 61 Vss 0.0281877f
c40 58 Vss 0.00108886f
c41 52 Vss 0.0966253f
c42 49 Vss 0.0299431f
c43 47 Vss 0.131329f
c44 36 Vss 0.043285f
c45 31 Vss 2.35358e-19
c46 28 Vss 0.117434f
c47 20 Vss 0.03478f
c48 19 Vss 0.169387f
c49 10 Vss 0.155214f
c50 7 Vss 0.215531f
c51 4 Vss 0.0714224f
c52 2 Vss 0.083716f
r53 58 61 1.16709
r54 55 58 0.0729375
r55 50 52 2.04225
r56 45 47 4.53833
r57 40 47 0.00605528
r58 37 52 0.0685365
r59 36 50 0.0685365
r60 35 49 0.494161
r61 35 36 1.69215
r62 33 49 0.494161
r63 32 45 0.00605528
r64 31 61 0.181909
r65 29 61 0.494161
r66 29 31 0.1167
r67 28 49 0.128424
r68 28 31 4.72635
r69 23 61 0.128424
r70 23 61 0.40845
r71 22 61 0.181909
r72 20 22 6.7686
r73 19 61 0.494161
r74 19 22 0.1167
r75 16 20 0.652036
r76 10 37 5.0181
r77 7 40 2.5674
r78 7 33 2.5674
r79 7 32 2.5674
r80 4 61 2.15895
r81 2 16 2.5674
.ends

.subckt PM_G4_XOR2_N1_Z 2 4 30 33 Vss
c26 30 Vss 0.00301247f
c27 4 Vss 0.00253802f
c28 2 Vss 0.00148239f
r29 33 35 3.12589
r30 30 33 5.16814
r31 4 35 1.16709
r32 2 30 1.16709
.ends

