* File: G4_XOR2_N2.pex.netlist.pex
* Created: Sun Apr 10 19:56:43 2022
* Program "Calibre xRC"
* Version "v2021.2_37.20"
* Nominal Temperature: 25C
* Circuit Temperature: 25C
* 
.subckt PM_G4_XOR2_N2_VSS 2 5 9 12 14 16 32 33 42 43 45 54 59 63 66 71 76 81 86
+ 95 100 113 115 116 117 122 123 128 138 140 145 146 147 150
c98 148 0 6.15603e-19
c99 147 0 3.75522e-19
c100 146 0 4.28045e-19
c101 145 0 0.00386476f
c102 140 0 0.0021378f
c103 138 0 0.00844222f
c104 128 0 0.00339884f
c105 123 0 8.42592e-19
c106 122 0 0.00171246f
c107 117 0 8.20625e-19
c108 116 0 0.00418359f
c109 115 0 0.00524404f
c110 113 0 0.00159018f
c111 100 0 0.00404792f
c112 95 0 0.00404489f
c113 86 0 1.66825e-19
c114 81 0 0.00174451f
c115 76 0 6.28678e-19
c116 71 0 9.88359e-19
c117 66 0 0.00180488f
c118 63 0 0.00552459f
c119 59 0 0.00736499f
c120 54 0 0.00542864f
c121 45 0 1.03318e-19
c122 43 0 0.0342891f
c123 42 0 0.100068f
c124 33 0 0.0350852f
c125 32 0 0.0990727f
c126 14 0 0.00143442f
c127 9 0 0.269235f
c128 5 0 0.268907f
r129 145 150 0.326018
r130 144 145 4.58464
r131 140 144 0.655813
r132 139 148 0.494161
r133 138 150 0.326018
r134 138 139 13.0037
r135 134 148 0.128424
r136 129 147 0.494161
r137 128 148 0.494161
r138 128 129 7.46046
r139 124 147 0.128424
r140 122 147 0.494161
r141 122 123 4.37625
r142 118 146 0.0828784
r143 116 130 0.652036
r144 116 117 10.1279
r145 115 123 0.652036
r146 114 146 0.551426
r147 114 115 14.4208
r148 113 146 0.551426
r149 112 117 0.652036
r150 112 113 4.58464
r151 86 140 1.82344
r152 81 134 5.2515
r153 76 100 1.16709
r154 76 130 2.16729
r155 71 95 1.16709
r156 71 124 2.16729
r157 66 118 1.82344
r158 63 86 1.16709
r159 59 81 1.16709
r160 54 66 1.16709
r161 45 100 0.0476429
r162 43 45 1.45875
r163 42 46 0.652036
r164 42 45 1.45875
r165 39 43 0.652036
r166 35 95 0.0476429
r167 33 35 1.45875
r168 32 36 0.652036
r169 32 35 1.45875
r170 29 33 0.652036
r171 16 63 0.185659
r172 14 59 0.185659
r173 12 59 0.185659
r174 9 46 3.8511
r175 9 39 3.8511
r176 5 36 3.8511
r177 5 29 3.8511
r178 2 54 0.185659
.ends

.subckt PM_G4_XOR2_N2_VDD 3 6 8 11 14 16 32 42 43 54 59 63 66 68 69 70 73 75 76
+ 79 81 85 89 91 93 98 99 100 103 109 114
c99 114 0 0.00454282f
c100 109 0 0.00472544f
c101 101 0 8.79456e-19
c102 100 0 2.39889e-19
c103 99 0 4.52364e-19
c104 98 0 0.00483655f
c105 93 0 0.00147365f
c106 91 0 0.0130047f
c107 89 0 0.00227129f
c108 85 0 8.26969e-19
c109 81 0 0.00455615f
c110 79 0 0.00100252f
c111 76 0 8.63853e-19
c112 75 0 0.0057282f
c113 73 0 0.0019575f
c114 70 0 8.67926e-19
c115 69 0 0.00221146f
c116 68 0 0.00205498f
c117 66 0 0.00803904f
c118 63 0 0.00389115f
c119 59 0 0.00739215f
c120 54 0 0.00398638f
c121 43 0 0.0351228f
c122 42 0 0.100954f
c123 35 0 2.09107e-19
c124 33 0 0.035919f
c125 32 0 0.100953f
c126 14 0 0.00143442f
c127 11 0 0.269396f
c128 3 0 0.270542f
r129 98 103 0.349767
r130 97 98 4.58464
r131 93 103 0.306046
r132 93 95 1.82344
r133 92 101 0.494161
r134 91 97 0.652036
r135 91 92 13.0037
r136 87 101 0.128424
r137 87 89 5.2515
r138 85 114 1.16709
r139 83 85 2.16729
r140 82 100 0.494161
r141 81 101 0.494161
r142 81 82 7.46046
r143 79 109 1.16709
r144 77 100 0.128424
r145 77 79 2.16729
r146 75 83 0.652036
r147 75 76 10.1279
r148 71 99 0.0828784
r149 71 73 1.82344
r150 69 100 0.494161
r151 69 70 4.37625
r152 68 76 0.652036
r153 67 99 0.551426
r154 67 68 4.58464
r155 66 99 0.551426
r156 65 70 0.652036
r157 65 66 14.4208
r158 63 95 1.16709
r159 59 89 1.16709
r160 54 73 1.02121
r161 45 114 0.0476429
r162 43 45 1.45875
r163 42 46 0.652036
r164 42 45 1.45875
r165 39 43 0.652036
r166 35 109 0.0476429
r167 33 35 1.45875
r168 32 36 0.652036
r169 32 35 1.45875
r170 29 33 0.652036
r171 16 63 0.185659
r172 14 59 0.185659
r173 11 46 3.8511
r174 11 39 3.8511
r175 8 59 0.185659
r176 6 54 0.185659
r177 3 36 3.8511
r178 3 29 3.8511
.ends

.subckt PM_G4_XOR2_N2_A 2 4 7 10 21 24 28 39 48 51 54 57 62 67 72 77 85
c58 85 0 8.29046e-19
c59 77 0 0.00201173f
c60 72 0 0.00648506f
c61 67 0 0.00351476f
c62 62 0 0.00246599f
c63 57 0 0.00406665f
c64 54 0 7.62653e-19
c65 48 0 0.128037f
c66 43 0 0.0296312f
c67 39 0 2.38608e-19
c68 28 0 0.152668f
c69 24 0 9.84889e-20
c70 21 0 0.169628f
c71 18 0 0.126125f
c72 16 0 0.0247918f
c73 10 0 0.1218f
c74 7 0 0.324846f
c75 4 0 0.138512f
r76 81 85 0.653045
r77 62 77 1.16709
r78 62 85 4.9014
r79 57 72 1.16709
r80 57 81 9.00257
r81 54 67 1.16709
r82 51 54 0.0364688
r83 47 72 0.0238214
r84 47 48 2.334
r85 44 47 2.20433
r86 39 77 0.50025
r87 33 48 0.00605528
r88 31 44 0.00605528
r89 29 43 0.494161
r90 28 30 0.652036
r91 28 29 4.84305
r92 25 43 0.128424
r93 24 67 0.0476429
r94 22 24 0.326018
r95 22 24 0.1167
r96 21 43 0.494161
r97 21 24 6.7686
r98 18 67 0.357321
r99 16 24 0.326018
r100 16 18 0.40845
r101 10 39 3.3843
r102 7 33 3.8511
r103 7 31 3.8511
r104 7 30 3.8511
r105 4 25 3.8511
r106 2 18 3.44265
.ends

.subckt PM_G4_XOR2_N2_NET1 2 4 7 10 30 31 35 41 44 49 58 76
c37 76 0 3.4517e-19
c38 58 0 0.00413905f
c39 49 0 0.00667491f
c40 44 0 0.00198364f
c41 41 0 0.00539823f
c42 35 0 0.103124f
c43 31 0 0.125482f
c44 30 0 9.62407e-20
c45 10 0 0.214624f
c46 7 0 0.384182f
c47 4 0 0.00143442f
r48 72 76 0.655813
r49 49 58 1.16709
r50 49 76 12.1076
r51 44 72 2.41736
r52 41 44 1.16709
r53 33 35 1.70187
r54 30 58 0.0238214
r55 30 31 2.20433
r56 27 30 2.334
r57 25 35 0.17282
r58 24 31 0.00605528
r59 21 33 0.17282
r60 18 27 0.00605528
r61 10 21 6.36015
r62 7 25 6.01005
r63 7 24 3.8511
r64 7 18 3.8511
r65 4 41 0.185659
r66 2 41 0.185659
.ends

.subckt PM_G4_XOR2_N2_NET2 2 4 6 9 21 22 33 39 42 47 56 74
c44 74 0 3.04338e-19
c45 56 0 0.00509819f
c46 47 0 0.00799947f
c47 42 0 0.00221316f
c48 39 0 0.00534974f
c49 33 0 0.129063f
c50 22 0 0.0345383f
c51 21 0 0.17396f
c52 9 0 0.466016f
c53 6 0 0.135514f
c54 4 0 0.00143442f
r55 70 74 0.660011
r56 47 56 1.16709
r57 47 74 11.3611
r58 42 70 2.37568
r59 39 42 1.16709
r60 32 56 0.0238214
r61 32 33 2.26917
r62 29 32 2.26917
r63 26 33 0.00605528
r64 24 29 0.00605528
r65 21 23 0.652036
r66 21 22 4.84305
r67 18 22 0.652036
r68 9 26 3.8511
r69 9 24 3.8511
r70 9 23 8.7525
r71 6 18 3.8511
r72 4 39 0.185659
r73 2 39 0.185659
.ends

.subckt PM_G4_XOR2_N2_B 2 4 7 10 19 20 28 31 35 45 52 55
c33 55 0 0.0280361f
c34 52 0 0.00155244f
c35 45 0 0.13326f
c36 35 0 0.154246f
c37 31 0 9.67975e-20
c38 28 0 0.117533f
c39 20 0 0.0348105f
c40 19 0 0.169544f
c41 10 0 0.209756f
c42 7 0 0.32787f
c43 4 0 0.134866f
c44 2 0 0.146861f
r45 49 55 1.16709
r46 49 52 0.0364688
r47 43 45 4.53833
r48 38 45 0.00605528
r49 35 47 1.87725
r50 33 47 0.527901
r51 32 43 0.00605528
r52 31 55 0.181909
r53 29 55 0.494161
r54 29 31 0.1167
r55 28 47 0.333556
r56 28 31 4.72635
r57 23 55 0.128424
r58 23 55 0.40845
r59 22 55 0.181909
r60 20 22 6.7686
r61 19 55 0.494161
r62 19 22 0.1167
r63 16 20 0.652036
r64 10 35 6.3018
r65 7 38 3.8511
r66 7 33 4.14285
r67 7 32 3.8511
r68 4 55 3.7344
r69 2 16 4.14285
.ends

.subckt PM_G4_XOR2_N2_Z 2 4 6 8 23 27 30 33
c29 30 0 0.00340522f
c30 27 0 0.00725263f
c31 23 0 0.0052085f
c32 8 0 0.00143442f
c33 6 0 0.00143442f
r34 33 35 3.83443
r35 30 33 6.00171
r36 27 35 1.16709
r37 23 30 1.16709
r38 8 27 0.185659
r39 6 23 0.185659
r40 4 27 0.185659
r41 2 23 0.185659
.ends

