* File: G5_XOR3_N2.pex.netlist.pex
* Created: Thu Mar 31 11:38:36 2022
* Program "Calibre xRC"
* Version "v2021.2_37.20"
* Nominal Temperature: 25C
* Circuit Temperature: 25C
* 
.subckt PM_G5_XOR3_N2_VDD 2 5 9 12 14 17 34 35 44 45 47 54 55 65 69 74 77 79 80
+ 81 84 86 90 93 96 98 102 104 108 112 114 116 118 119 125 134 139 Vss
c115 139 Vss 0.00504502f
c116 134 Vss 0.00507145f
c117 125 Vss 0.00564924f
c118 119 Vss 2.39889e-19
c119 118 Vss 4.91626e-19
c120 117 Vss 5.50975e-19
c121 114 Vss 4.52364e-19
c122 112 Vss 0.00169191f
c123 108 Vss 0.00106552f
c124 104 Vss 0.00630988f
c125 102 Vss 0.00113412f
c126 98 Vss 0.00579331f
c127 96 Vss 0.00150773f
c128 93 Vss 0.00256047f
c129 90 Vss 0.00487749f
c130 86 Vss 0.00657827f
c131 84 Vss 0.00152345f
c132 81 Vss 8.67722e-19
c133 80 Vss 0.00905163f
c134 79 Vss 0.0103203f
c135 77 Vss 0.00223293f
c136 74 Vss 0.00377995f
c137 69 Vss 0.00394389f
c138 65 Vss 0.00382792f
c139 55 Vss 0.035607f
c140 54 Vss 0.100823f
c141 47 Vss 8.75732e-20
c142 45 Vss 0.0356105f
c143 44 Vss 0.101295f
c144 35 Vss 0.0346386f
c145 34 Vss 0.0990802f
c146 17 Vss 0.269219f
c147 9 Vss 0.270254f
c148 5 Vss 0.27424f
r149 110 112 5.2515
r150 108 139 1.16709
r151 106 108 2.16729
r152 105 119 0.494161
r153 104 110 0.652036
r154 104 105 7.46046
r155 102 134 1.16709
r156 100 119 0.128424
r157 100 102 2.16729
r158 99 118 0.494161
r159 98 106 0.652036
r160 98 99 10.3363
r161 94 117 0.0828784
r162 94 96 2.00578
r163 93 118 0.128424
r164 92 117 0.551426
r165 92 93 4.58464
r166 90 125 1.16709
r167 88 117 0.551426
r168 88 90 6.79361
r169 87 116 0.326018
r170 86 118 0.494161
r171 86 87 10.1279
r172 82 114 0.0828784
r173 82 84 1.82344
r174 80 119 0.494161
r175 80 81 15.8795
r176 79 116 0.326018
r177 78 114 0.551426
r178 78 79 15.6295
r179 77 114 0.551426
r180 76 81 0.652036
r181 76 77 4.58464
r182 74 112 1.16709
r183 69 96 1.16709
r184 65 84 1.16709
r185 57 139 0.0476429
r186 55 57 1.45875
r187 54 58 0.652036
r188 54 57 1.45875
r189 51 55 0.652036
r190 47 134 0.0476429
r191 45 47 1.45875
r192 44 48 0.652036
r193 44 47 1.45875
r194 41 45 0.652036
r195 37 125 0.238214
r196 35 37 1.45875
r197 34 38 0.652036
r198 34 37 1.45875
r199 31 35 0.652036
r200 17 58 3.8511
r201 17 51 3.8511
r202 14 74 0.185659
r203 12 69 0.185659
r204 9 48 3.8511
r205 9 41 3.8511
r206 5 38 3.8511
r207 5 31 3.8511
r208 2 65 0.185659
.ends

.subckt PM_G5_XOR3_N2_C 2 4 6 8 17 20 23 32 37 40 43 47 52 57 84 92 98 Vss
c55 98 Vss 3.07681e-19
c56 92 Vss 0.00543335f
c57 84 Vss 0.00807877f
c58 57 Vss 0.00478462f
c59 52 Vss 0.00202371f
c60 47 Vss 0.00149319f
c61 43 Vss 5.64514e-19
c62 40 Vss 6.40888e-19
c63 37 Vss 0.00399277f
c64 32 Vss 0.00492048f
c65 23 Vss 2.41681e-19
c66 20 Vss 0.221837f
c67 17 Vss 0.126125f
c68 15 Vss 0.0247918f
c69 4 Vss 0.133869f
r70 93 98 0.441572
r71 92 94 0.655813
r72 92 93 9.04425
r73 88 98 0.174814
r74 84 98 0.441572
r75 52 94 2.45904
r76 47 88 2.45904
r77 43 57 1.16709
r78 43 84 22.1365
r79 40 43 0.0416786
r80 37 52 1.16709
r81 32 47 1.16709
r82 23 57 0.0476429
r83 21 23 0.326018
r84 21 23 0.1167
r85 20 24 0.652036
r86 20 23 6.7686
r87 17 57 0.357321
r88 15 23 0.326018
r89 15 17 0.40845
r90 8 37 0.185659
r91 6 32 0.185659
r92 4 24 3.8511
r93 2 17 3.44265
.ends

.subckt PM_G5_XOR3_N2_VSS 3 6 8 11 15 18 34 37 44 45 54 55 57 66 70 73 78 83 88
+ 93 98 107 112 121 123 124 125 130 131 136 142 148 152 153 154 156 Vss
c125 154 Vss 3.75522e-19
c126 153 Vss 3.88979e-19
c127 152 Vss 4.4306e-19
c128 148 Vss 4.18562e-19
c129 142 Vss 0.00192878f
c130 136 Vss 0.00349848f
c131 131 Vss 8.4146e-19
c132 130 Vss 0.00631713f
c133 125 Vss 8.38522e-19
c134 124 Vss 0.00567123f
c135 123 Vss 0.00379369f
c136 121 Vss 0.00292495f
c137 112 Vss 0.00392167f
c138 107 Vss 0.00408825f
c139 98 Vss 0.00496033f
c140 93 Vss 0.00183916f
c141 88 Vss 6.78589e-19
c142 83 Vss 8.07476e-19
c143 78 Vss 0.00294517f
c144 73 Vss 0.00293431f
c145 70 Vss 0.00527641f
c146 66 Vss 0.00738472f
c147 57 Vss 1.05421e-19
c148 55 Vss 0.0347733f
c149 54 Vss 0.0996929f
c150 45 Vss 0.035088f
c151 44 Vss 0.0994129f
c152 37 Vss 6.29003e-20
c153 35 Vss 0.0348882f
c154 34 Vss 0.100326f
c155 15 Vss 0.270318f
c156 11 Vss 0.269056f
c157 8 Vss 0.00143442f
c158 3 Vss 0.275257f
r159 148 156 0.326018
r160 143 154 0.494161
r161 142 156 0.326018
r162 142 143 7.46046
r163 138 154 0.128424
r164 137 153 0.494161
r165 136 144 0.652036
r166 136 137 7.46046
r167 132 153 0.128424
r168 130 154 0.494161
r169 130 131 15.8795
r170 126 152 0.0828784
r171 124 153 0.494161
r172 124 125 13.0037
r173 123 131 0.652036
r174 122 152 0.551426
r175 122 123 12.0451
r176 121 152 0.551426
r177 120 125 0.652036
r178 120 121 8.169
r179 93 148 5.2515
r180 88 112 1.16709
r181 88 144 2.16729
r182 83 107 1.16709
r183 83 138 2.16729
r184 78 132 5.2515
r185 73 98 1.16709
r186 73 126 4.33978
r187 70 93 1.16709
r188 66 78 1.16709
r189 57 112 0.0476429
r190 55 57 1.45875
r191 54 58 0.652036
r192 54 57 1.45875
r193 51 55 0.652036
r194 47 107 0.0476429
r195 45 47 1.45875
r196 44 48 0.652036
r197 44 47 1.45875
r198 41 45 0.652036
r199 37 98 0.238214
r200 35 37 1.45875
r201 34 38 0.652036
r202 34 37 1.45875
r203 31 35 0.652036
r204 18 70 0.185659
r205 15 58 3.8511
r206 15 51 3.8511
r207 11 48 3.8511
r208 11 41 3.8511
r209 8 66 0.185659
r210 6 66 0.185659
r211 3 38 3.8511
r212 3 31 3.8511
.ends

.subckt PM_G5_XOR3_N2_CI 2 4 6 8 23 26 31 34 39 44 79 80 82 84 89 Vss
c55 95 Vss 8.69704e-20
c56 89 Vss 0.00497463f
c57 84 Vss 1.28221e-19
c58 83 Vss 1.74838e-19
c59 82 Vss 0.0011265f
c60 80 Vss 4.20409e-19
c61 79 Vss 0.00494114f
c62 44 Vss 0.00209131f
c63 39 Vss 0.00145787f
c64 34 Vss 0.00360912f
c65 31 Vss 0.00501643f
c66 26 Vss 0.00386883f
c67 23 Vss 0.00546777f
c68 4 Vss 0.00143442f
r69 90 95 0.494161
r70 89 91 0.652036
r71 89 90 10.3363
r72 85 95 0.128424
r73 83 95 0.494161
r74 83 84 1.70882
r75 82 84 0.652036
r76 81 82 4.75136
r77 79 81 0.652036
r78 79 80 18.9638
r79 75 80 0.652036
r80 44 91 2.58407
r81 39 85 2.58407
r82 34 75 7.71054
r83 31 44 1.16709
r84 26 39 1.16709
r85 23 34 1.16709
r86 8 31 0.185659
r87 6 26 0.185659
r88 4 23 0.185659
r89 2 23 0.185659
.ends

.subckt PM_G5_XOR3_N2_A 2 4 7 11 24 44 45 49 51 54 56 57 60 65 66 69 74 Vss
c72 74 Vss 0.00550397f
c73 69 Vss 0.00508271f
c74 66 Vss 0.00601821f
c75 65 Vss 3.90863e-19
c76 57 Vss 9.08254e-19
c77 56 Vss 6.01198e-19
c78 54 Vss 0.00400006f
c79 51 Vss 0.00786937f
c80 49 Vss 0.135055f
c81 45 Vss 0.127825f
c82 44 Vss 9.84889e-20
c83 24 Vss 0.21954f
c84 21 Vss 0.129208f
c85 19 Vss 0.0247918f
c86 7 Vss 1.22248f
c87 4 Vss 0.139574f
r88 65 74 1.16709
r89 65 66 0.531835
r90 62 69 1.16709
r91 60 62 0.0416786
r92 57 60 0.833571
r93 56 66 10.4613
r94 53 56 0.652036
r95 53 54 8.66914
r96 52 57 0.0685365
r97 51 54 0.652036
r98 51 52 10.2113
r99 47 49 4.53833
r100 44 74 0.0238214
r101 44 45 2.26917
r102 41 44 2.26917
r103 36 49 0.00605528
r104 35 45 0.00605528
r105 32 47 0.00605528
r106 31 41 0.00605528
r107 27 69 0.0952857
r108 25 27 0.326018
r109 25 27 0.1167
r110 24 28 0.652036
r111 24 27 6.7686
r112 21 27 0.3335
r113 19 27 0.326018
r114 19 21 0.2334
r115 11 36 3.8511
r116 11 32 3.8511
r117 7 11 15.4044
r118 7 35 3.8511
r119 7 11 15.4044
r120 7 31 3.8511
r121 4 28 3.8511
r122 2 21 3.6177
.ends

.subckt PM_G5_XOR3_N2_BI 2 4 6 8 18 21 29 32 37 42 51 56 65 71 72 80 Vss
c67 80 Vss 3.59704e-19
c68 72 Vss 1.29652e-19
c69 71 Vss 7.91966e-19
c70 65 Vss 0.00113976f
c71 56 Vss 0.00255458f
c72 51 Vss 0.00236417f
c73 42 Vss 0.00116078f
c74 37 Vss 0.00223673f
c75 32 Vss 0.00202587f
c76 29 Vss 0.00450527f
c77 21 Vss 0.111942f
c78 6 Vss 0.112114f
c79 4 Vss 0.00143442f
r80 76 80 0.655813
r81 71 72 0.655813
r82 70 71 3.501
r83 65 70 0.655813
r84 42 56 1.16709
r85 42 72 2.00578
r86 37 51 1.16709
r87 37 80 12.0712
r88 37 65 2.00578
r89 32 76 2.45904
r90 29 32 1.16709
r91 21 56 0.50025
r92 18 51 0.50025
r93 8 21 3.09255
r94 6 18 3.09255
r95 4 29 0.185659
r96 2 29 0.185659
.ends

.subckt PM_G5_XOR3_N2_AI 2 4 7 11 31 37 43 46 51 60 73 79 Vss
c46 79 Vss 2.59226e-19
c47 73 Vss 0.00489127f
c48 60 Vss 0.00532163f
c49 51 Vss 0.00226804f
c50 46 Vss 0.00262268f
c51 43 Vss 0.00448639f
c52 37 Vss 0.127877f
c53 31 Vss 0.131547f
c54 7 Vss 1.20882f
c55 4 Vss 0.00143442f
r56 75 79 0.652036
r57 73 79 13.7539
r58 51 60 1.16709
r59 51 73 2.75079
r60 46 75 5.2515
r61 43 46 1.16709
r62 36 60 0.0238214
r63 36 37 2.334
r64 33 36 2.20433
r65 29 31 4.53833
r66 26 37 0.00605528
r67 25 31 0.00605528
r68 22 33 0.00605528
r69 21 29 0.00605528
r70 11 26 3.8511
r71 11 22 3.8511
r72 7 11 15.4044
r73 7 25 3.8511
r74 7 11 15.4044
r75 7 21 3.8511
r76 4 43 0.185659
r77 2 43 0.185659
.ends

.subckt PM_G5_XOR3_N2_B 2 4 6 8 16 17 24 26 33 38 42 45 50 55 60 65 73 74 80 86
+ 91 92 Vss
c75 92 Vss 1.50842e-19
c76 91 Vss 6.9543e-19
c77 86 Vss 8.71217e-19
c78 80 Vss 6.55917e-19
c79 74 Vss 5.2356e-19
c80 73 Vss 0.00528129f
c81 65 Vss 0.00250661f
c82 60 Vss 0.00217314f
c83 55 Vss 0.00427742f
c84 50 Vss 0.00149379f
c85 45 Vss 3.19996e-19
c86 42 Vss 4.98048e-19
c87 38 Vss 6.6601e-19
c88 33 Vss 1.05421e-19
c89 26 Vss 0.111942f
c90 24 Vss 9.84889e-20
c91 20 Vss 0.0247918f
c92 17 Vss 0.0339811f
c93 16 Vss 0.183683f
c94 8 Vss 0.111942f
c95 4 Vss 0.12597f
c96 2 Vss 0.136912f
r97 90 92 0.655813
r98 90 91 3.501
r99 86 91 0.655813
r100 73 80 0.0685365
r101 73 74 10.3363
r102 69 74 0.652036
r103 50 65 1.16709
r104 50 92 2.00578
r105 45 60 1.16709
r106 45 86 2.00578
r107 45 80 2.04225
r108 38 55 1.16709
r109 38 69 2.25064
r110 38 42 0.0364688
r111 36 55 0.0476429
r112 33 65 0.50025
r113 26 60 0.50025
r114 24 55 0.357321
r115 20 36 0.326018
r116 20 24 0.40845
r117 17 36 6.7686
r118 16 36 0.326018
r119 16 36 0.1167
r120 13 17 0.652036
r121 8 33 3.09255
r122 6 26 3.09255
r123 4 24 3.44265
r124 2 13 3.8511
.ends

.subckt PM_G5_XOR3_N2_Z 2 4 6 8 23 27 30 33 Vss
c32 30 Vss 0.00368262f
c33 27 Vss 0.00842339f
c34 23 Vss 0.00745376f
c35 8 Vss 0.00143442f
c36 6 Vss 0.00334862f
r37 33 35 5.20982
r38 30 40 1.16709
r39 30 33 5.79332
r40 27 35 1.16709
r41 23 40 0.05
r42 8 27 0.185659
r43 6 23 0.185659
r44 4 27 0.185659
r45 2 23 0.185659
.ends

